US04985582
1-(4-Chlorophenyl)-4-n-propyl-2,6-dioxabicyclo[2,2,2]oct-8-yl methanesulphonate
Methanesulphonyl chloride (164 μl) was added to a stirred solution of 1-(4-chlorophenyl)-8-hydroxy-4-n-propyl-2,6-dioxabicyclo[2,2,2]octane (500 mg.) in dry pyridine (2.0 ml.). The mixture was stirred at room temperature for 6 hours. The mixture was poured into water and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with 1N hydrochloric acid solution. The ethereal extracts were then washed with saturated aqueous sodium hydrogen carbonate solution. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo.

reactant | Methanesulphonyl chloride | 164 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-chlorophenyl)-8-hydroxy-4-n-propyl-2,6-dioxabicyclo[2,2,2]octane | 500 mg | ClC1=CC=C(C=C1)C12OCC(CO1)(C(C2)O)CCC | C15H19ClO3
reactant | water | O | H2O
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Chlorophenyl)-4-n-propyl-2,6-dioxabicyclo[2,2,2]oct-8-yl methanesulphonate | CS(=O)(=O)OC1CC2(OCC1(CO2)CCC)C2=CC=C(C=C2)Cl | C16H21ClO5S
